US09447084B2
1-amino-3-(2,2,2-trifluoroethyl)-1,3-diazinan-2-one
Into a 100-mL round-bottom flask, was placed phenyl N-(3-chloropropyl)-N-(2,2,2-trifluoroethyl)carbamate (1.4 g, 4.73 mmol, 1.00 equiv), NH2NH2.H2O (6 mL), ethanol (40 mL). The resulting solution was stirred for 5 h at 90° C. in an oil bath. The resulting mixture was concentrated under vacuum. The resulting solution was diluted with 50 mL of H2O. The resulting solution was extracted with 3×30 mL of ethyl acetate and the organic layers combined. The resulting mixture was washed with 2×30 mL of brine. The mixture was dried over anhydrous sodium sulfate. The resulting mixture was concentrated under vacuum. This resulted in 200 mg (crude) of 1-amino-3-(2,2,2-trifluoroethyl)-1,3-diazinan-2-one as a light yellow solid.

reactant | phenyl N-(3-chloropropyl)-N-(2,2,2-trifluoroethyl)carbamate | 4.73 mmol, 1.4 g, 1.00 equiv | ClCCCN(C(OC1=CC=CC=C1)=O)CC(F)(F)F | C12H13ClF3NO2
reactant | NH2NH2.H2O | 6 mL | NN.O
solvent | ethanol | 40 mL | C(C)O | C2H6O
product | 1-amino-3-(2,2,2-trifluoroethyl)-1,3-diazinan-2-one | NN1C(N(CCC1)CC(F)(F)F)=O | C6H10F3N3O
